US07851490B2
O-Methyl-N-{1-[1-(3-pyridin-3-yl-phenyl)-1H-benzoimidazol-5-yl]-ethyl}-hydroxylamine
To a solution of 1-[1-(3-pyridin-3-yl-phenyl)-1H-benzoimidazol-5-yl]-ethanone O-methyl-oxime (prepared as described in WO 96/33191) (0.88 g, 2.57 mmol) in dichloromethane (10 ml) was added pyridine-borane complex (0.87 ml, 8.57 mmol) and glacial acetic acid (2.5 ml), successively. The resultant solution was stirred at reflux in a nitrogen atmosphere for 4 days. Hydrochloric acid (5 ml, 1M) was added to the cooled solution and stirring was continued for 30 min and the resultant mixture was concentrated in vacuo. The concentrate was partitioned between ethyl acetate and aqueous sodium bicarbonate. The organic layer was dried over sodium sulphate and eluted through silica gel with a mixture of ethyl acetate and methanol (9:1 v/v). This afforded 27 mg of the desired product. LC-ESI-HRMS of [M+H]+ shows 345.1717 Da. Calc. 345.171536 Da. dev. 0.5 ppm.

reactant | 1-[1-(3-pyridin-3-yl-phenyl)-1H-benzoimidazol-5-yl]-ethanone O-methyl-oxime | 2.57 mmol, 0.88 g | CON=C(C)C1=CC2=C(N(C=N2)C2=CC(=CC=C2)C=2C=NC=CC2)C=C1 | C21H18N4O
reactant | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
reactant | Hydrochloric acid | 1M, 5 ml | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | O-Methyl-N-{1-[1-(3-pyridin-3-yl-phenyl)-1H-benzoimidazol-5-yl]-ethyl}-hydroxylamine | CONC(C)C1=CC2=C(N(C=N2)C2=CC(=CC=C2)C=2C=NC=CC2)C=C1 | C21H20N4O
